US09376396B2
I.1.4 2-tert-Butyl-4-(2-methoxy-ethyl)-6-piperazin-1-yl-pyrimidine
A solution of piperazine (45.2 g, 525 mmol) in ethanol (300 mL) was heated to reflux. A solution of 2-tert-butyl-4-chloro-6-(2-methoxy-ethyl)-pyrimidine (20 g, 87 mmol) in ethanol (50 mL) was added dropwise to the above solution. The solution was refluxed for another 3 hrs, cooled to room temperature. Then water was added and the organic layer was extracted with EA (400 mL×3). To the organic layer was added 5% citric acid (1 L), separated, and the aqueous layer was collected and adjusted to alkaline pH>8 with 2 N NaOH. The alkaline aqueous layer was extracted with EA (400 mL×3), and the organic phase was dried over Na2SO4, filtered and concentrated to give the title compound (20 g, 82% yield) as a yellow oil.

reactant | piperazine | 525 mmol, 45.2 g | N1CCNCC1 | C4H10N2
reactant | 2-tert-butyl-4-chloro-6-(2-methoxy-ethyl)-pyrimidine | 87 mmol, 20 g | C(C)(C)(C)C1=NC(=CC(=N1)Cl)CCOC | C11H17ClN2O
reactant | water | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-tert-Butyl-4-(2-methoxy-ethyl)-6-piperazin-1-yl-pyrimidine | 20 g, 82% yield | C(C)(C)(C)C1=NC(=CC(=N1)CCOC)N1CCNCC1 | C15H26N4O
